US05120843
3,4-Dihydro-7-hydroxy-4-[2-(3,4-dimethoxyphenyl)ethyl]-1,4-benzoxazine-3-one (IX).
A solution of the amide (0.50 mmol) was added to a mixture of sodium hydride (2.3 mmol) and dimethyl formamide (2.0 ml). After stirring for 30 min a solution of 1-bromo-2-(3,4-dimethoxyphenyl)ethane (0.50 mmol) in dimethyl formamide (1.0 ml) was added at 0° C. After 2 h an aqueous workup with ethyl acetate was performed. The organic layers were dried with magnesium sulfate and concentrated. Purification by flash chromatography provided the title compound.

reactant | sodium hydride | 2.3 mmol | [H-].[Na+]
reactant | 1-bromo-2-(3,4-dimethoxyphenyl)ethane | 0.50 mmol | BrCCC1=CC(=C(C=C1)OC)OC | C10H13BrO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | dimethyl formamide | 1.0 ml | CN(C=O)C | C3H7NO
reactant | dimethyl formamide | 2.0 ml | CN(C=O)C | C3H7NO
product | 3,4-Dihydro-7-hydroxy-4-[2-(3,4-dimethoxyphenyl)ethyl]-1,4-benzoxazine-3-one | OC1=CC2=C(N(C(CO2)=O)CCC2=CC(=C(C=C2)OC)OC)C=C1 | C18H19NO5
